US08383827B2
To a solution of 2-(5-(2,3-dichlorophenyl)pyridin-3-yl)ethanamine (35 mg, 0.131 mmol) in pyridine (3 ml) at 0° C. was added ethanesulfonyl chloride (0.037 ml, 0.393 mmol) and the resulting mixture was stirred at room temperature for 2 h. The reaction mixture was diluted with EtOAc and water, extracted with EtOAc. The combined organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. Purification via PTLC (eluent; 60% EtOAc/Heptane, v/v) gave N-(2-(5-(2,3-dichlorophenyl)pyridin-3-yl)ethyl)ethanesulfonamide (8.1 mg, 0.023 mmol, 17% yield).

reactant | 2-(5-(2,3-dichlorophenyl)pyridin-3-yl)ethanamine | 0.131 mmol, 35 mg | ClC1=C(C=CC=C1Cl)C=1C=C(C=NC1)CCN | C13H12Cl2N2
reactant | ethanesulfonyl chloride | 0.393 mmol, 0.037 ml | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | N-(2-(5-(2,3-dichlorophenyl)pyridin-3-yl)ethyl)ethanesulfonamide | 0.023 mmol, 8.1 mg, 17% yield | ClC1=C(C=CC=C1Cl)C=1C=C(C=NC1)CCNS(=O)(=O)CC | C15H16Cl2N2O2S
